US08314094B2
3) Synthesis of 4-{[(4-fluorobenzoyl)amino]methyl}-N-methyl-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazine-6-carboxamide
4-{[(4-Fluorobenzoyl)amino]methyl}-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazine-6-carboxylic acid (30 mg, 0.073 mmol) and CDI (23.6 mg, 0.15 mmol) were dissolved in THF (230 μL) and DMF (90 μL), and the solution was stirred at room temperature for 30 minutes and thereafter, methylamine (182 μL, 0.36 mmol) was added thereto. The reaction solution was stirred at room temperature for 30 minutes and then diluted with ethyl acetate, which was washed sequentially with water and saturated brine and then dried over magnesium sulfate. After the drying agent was removed by filtration, the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography, whereby the objective compound (10.2 mg, 33%) was obtained as a white solid.

reactant | 4-{[(4-Fluorobenzoyl)amino]methyl}-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazine-6-carboxylic acid | 0.073 mmol, 30 mg | FC1=CC=C(C(=O)NCC2(OC(NC3=C2C=C(C=C3)C(=O)O)=O)C(F)(F)F)C=C1 | C18H12F4N2O5
reactant | CDI | 0.15 mmol, 23.6 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | methylamine | 0.36 mmol, 182 μL | CN | CH5N
solvent | THF | 230 μL | C1CCOC1 | C4H8O
solvent | DMF | 90 μL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-{[(4-fluorobenzoyl)amino]methyl}-N-methyl-2-oxo-4-(trifluoromethyl)-1,4-dihydro-2H-3,1-benzoxazine-6-carboxamide | FC1=CC=C(C(=O)NCC2(OC(NC3=C2C=C(C=C3)C(=O)NC)=O)C(F)(F)F)C=C1 | C19H15F4N3O4
